US07851473B2
4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyrazin-2-ylpiperidine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyrazin-2-ylcarbamate (227 mg, 0.839 mmol), 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine (200 mg, 0.762 mmol) and diisopropylethylamine (0.266 ml, 1.52 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 6 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and ethyl acetate to give the desired product (202 mg, 69.2%) as a solid.

reactant | 2,2,2-trichloroethyl pyrazin-2-ylcarbamate | 0.839 mmol, 227 mg | N1=C(C=NC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine | 0.762 mmol, 200 mg | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCNCC1 | C14H15FN2S
reactant | diisopropylethylamine | 1.52 mmol, 0.266 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyrazin-2-ylpiperidine-1-carboxamide | 202 mg, 69.2% | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC1=NC=CN=C1 | C19H18FN5OS
